 -------------- Lab1 TCFE -----------------

* NGSPICE simulation script

* ------ To run like lab assignement uncomment (unc)

* --------- Intructions to print Potential Diff ------------
*print v(n1, n2) = v(n1) - v(n2), if only v(n1) => v2 = 0 (GND) , page 302 ngspice manual

* forces current values to be saved
.options savecurrents

* ------------- Independent Sources 
Va n2vv GND 5.07072749268
Id n7vv n6vv 1.00018604098m 

Vzero GND nzvv 0
*Imaginary source (needed to specify Hc) (unc)

* ------------- Dependent Sources 
Gb n4vv n6vv n3vv n5vv 7.26322828319k
*Ib = Kb*Vb - Kb = 7.26322828319k , Vb = To be calculated

Hc n5vv n7vv Vzero 8.05067652194k
*Vc = Kc*Ic - Kc = 05067652194k , Ic = To be Calculated (unc)
*Vc n5 n7 7.8 ; - Not known! Just for debugg

* -------------- Resistors - All in kOhms!
R1 n3vv n2vv 1.02051254911K
R2 n4vv n3vv 2.07133294635K
R3 n3vv n5vv 3.10650554224K
R4 GND n5vv 4.01929064552K
R5 n5vv n6vv 3.0844359874K
R6 nzvv n8vv 2.01287586659K
R7 n8vv n7vv 1.02150900709K

*makes plots in color
*set hcopypscolor=0
*set color0=white
*set color1=black
*set color2=red
*set color3=blue
*set color4=violet
*set color5=rgb:3/8/0
*set color6=rgb:4/0/0

.op
.control
op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo "---------Debugging Values-----------"

echo "Potential Difference"
echo "Voltage at Nodes"
*print @Q1[ic]
*print @Rf[i]

echo  "op_TAB"
print n2vv
print n3vv
print n4vv
print n5vv
print n6vv
print n7vv
print n8vv
print v(n5vv, n7vv)
print @r1[i]
print @r2[i]
print @r3[i]
print @r4[i]
print @r5[i]
print @r6[i]
print @r7[i]
print @Gb[i]

echo  "op_END"

*quit might help?
*.endc
.end